US07034016B2
A solution of 1-(1,1-diphenylmethyl)azetidine-3-carbonitrile (7.8 g, 31.4 mmol) in 30 mL of tetrahydrofuran was slowly added to a suspension of lithium aluminium hydride (4.0 g, 105 mmol) in tetrahydrofuran under nitrogen and the resulting mixture was stirred under reflux for one hour. On cooling, the mixture was treated dropwise with water (4 mL), aqueous sodium hydroxyde (4 mL, 4N), and water (12 mL) and filtered. The filtrate was concentrated under reduced pressure to yield 3-(aminomethyl)-1-(1,1-diphenylmethyl)azetidine as a white solid (5.2 g, 73%).

reactant | 1-(1,1-diphenylmethyl)azetidine-3-carbonitrile | 31.4 mmol, 7.8 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N1CC(C1)C#N | C17H16N2
reactant | lithium aluminium hydride | 105 mmol, 4.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4 mL | O | H2O
reactant | sodium | [Na] | Na
reactant | water | 12 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-(aminomethyl)-1-(1,1-diphenylmethyl)azetidine | 5.2 g, 73% | NCC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H20N2
